US06828317B2
Cyclopropanecarboxylic acid {3-[3-fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-amide
Prepared from 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one (0.30 g, 0.925 mmol and cyclopropanecarboxylic acid (0.0812 ml, 1.02 mmol) according to the method of Example 15 (0.30 g, 84%); 1HNMR (300 MHz, DMSO-d6) δ 0.59-0.68 (m, 4H), 1.53-1.62 (m, 1H), 3.44 (t, J=5.2 Hz, 2H), 3.58 (s, 2H), 3.72 (dd, J=6.3, 9.1 Hz, 1H), 4.14 (t, J=9.1 Hz, 1H), 4.72-4.78 (m, 1H), 7.41 (dd, J=2.2, 8.5 Hz, 1H), 7.53 (dd, J=2.2, 14 Hz, 1H), 7.68 (t, J=8.8 Hz, 1H), 8.46 (t, J=5.8 Hz, 1H), 11.6 (s, 1H); mp 239-40; MS (m/z): [M+H]+=393.

reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F | C13H13FN4O3S
reactant | cyclopropanecarboxylic acid | 1.02 mmol, 0.0812 ml | C1(CC1)C(=O)O | C4H6O2
product | Cyclopropanecarboxylic acid {3-[3-fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-amide | FC=1C=C(C=CC1C=1SCC(NN1)=O)N1C(O[C@H](C1)CNC(=O)C1CC1)=O | C17H17FN4O4S
